US07960552B2
Methyl magnesium bromide (7.97 mL of 3.0 M in tetrahydrofuran, 23.91 mmol) was added dropwise to 5-bromo-2-nitro-benzaldehyde (5.00 g, 21.73 mmol) in tetrahydrofuran (72 mL) at −78° C. After the addition was complete, the reaction was stirred for 15 min at −78° C. Then, the mixture was quenched with water and diethyl ether was added. The reaction was allowed to warm to room temperature and 10% citric acid solution was added. The layers were separated and the organic layer was dried over anhydrous magnesium sulfate, then filtered and concentrated. The residue was purified by silica gel chromatography eluting with 1:7 ethyl acetate:hexanes to give 1.68 g (31%) of 1-(5-bromo-2-nitrophenyl)-ethanol as a solid. 1H NMR (400 MHz, d6-DMSO): δ 7.95 (d, J=2 Hz, 1H), 7.87 (d, J=9 Hz, 1H), 7.71 (dd, J=9, 2 Hz, 1H), 5.64 (d, J=4 Hz, 1H), 5.16-5.09 (m, 1H), 1.36 (d, J=6 Hz, 3H).

reactant | Methyl magnesium bromide | 23.91 mmol, 3.0 M, 7.97 mL | C[Mg]Br
reactant | 5-bromo-2-nitro-benzaldehyde | 21.73 mmol, 5.00 g | BrC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4BrNO3
solvent | tetrahydrofuran | 72 mL | O1CCCC1 | C4H8O
product | 1-(5-bromo-2-nitrophenyl)-ethanol | 1.68 g, 31% | BrC=1C=CC(=C(C1)C(C)O)[N+](=O)[O-] | C8H8BrNO3
